US05254558
This compound was prepared from diethyl ethoxymethylenemalonate and N-(2,2-diethoxyethyl)-4-fluorobenzamidine by a procedure similar to that described in Example 1.b. to obtain ethyl 1-(2,2-diethoxyethyl)-2-(4-fluorophenyl)pyrimidin-6(1H)-one-5-carboxylate as an oil; MS: m/z=379(M+1).

reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | N-(2,2-diethoxyethyl)-4-fluorobenzamidine | C(C)OC(CNC(C1=CC=C(C=C1)F)=N)OCC | C13H19FN2O2
product | ethyl 1-(2,2-diethoxyethyl)-2-(4-fluorophenyl)pyrimidin-6(1H)-one-5-carboxylate | C(C)OC(CN1C(=NC=C(C1=O)C(=O)OCC)C1=CC=C(C=C1)F)OCC | C19H23FN2O5
